US07179823B1
Sodium hydride (60%, oily, 1.28 g) was added to a solution of ethyl 3-(1-benzyl-3-hydroxy-1H-pyrazol-4-yl)propionate (8.78 g) in N,N-dimethylformamide (100 ml) at 0° C., and the mixture was stirred for 30 minutes. Iodoethane (2.82 ml) was added to the reaction mixture, and the mixture was stirred at room temperature for one hour. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with 1N hydrochloric acid and then with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-(1-benzyl-3-ethoxy-1H-pyrazol-4-yl)propionate (8.80 g, yield: 91%) was obtained as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:5, volume ratio).

reactant | Sodium hydride | 1.28 g | [H-].[Na+]
reactant | ethyl 3-(1-benzyl-3-hydroxy-1H-pyrazol-4-yl)propionate | 8.78 g | C(C1=CC=CC=C1)N1N=C(C(=C1)CCC(=O)OCC)O | C15H18N2O3
reactant | Iodoethane | 2.82 ml | ICC | C2H5I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl 3-(1-benzyl-3-ethoxy-1H-pyrazol-4-yl)propionate | 8.80 g, yield: 91% | C(C1=CC=CC=C1)N1N=C(C(=C1)CCC(=O)OCC)OCC | C17H22N2O3
